US09029399B2
Preparation of the title compound 1-[4-(1-hydroxy-cyclopropyl)-pyridin-3-yl]-3-(3-trifluoromethyl-phenyl)-imidazolidin-2-one (36A)
2.5 M Solution of EtMgBr (0.8 mL, 1.974 mmol) was added drop wise to a solution of titanium(IV)isopropoxide (187.3 mg, 0.659 mmol) in diethyl ether (10 mL) for a period of 15 minutes at −78° C. under nitrogen atmosphere. The resulting mixture was stirred for 90 minutes. This was followed by the addition of 3-[2-oxo-3-(3-trifluoromethyl-phenyl)-imidazolidin-1-yl]-isonicotinic acid ethyl ester (I-36c: 125 mg, 0.329 mmol) in diethyl ether (3 mL) at −78° C. and continued stirring at room temperature overnight. The reaction was monitored by TLC (80% ethyl acetate in hexane). The reaction mixture was cooled and partitioned between ethyl acetate and 1N HCl. The organic layer was concentrated to yield crude product which was purified by preparative HPLC to afford 8 mg of the product (6% yield).

reactant | EtMgBr | 1.974 mmol, 0.8 mL | CC[Mg+].[Br-]
reactant | 3-[2-oxo-3-(3-trifluoromethyl-phenyl)-imidazolidin-1-yl]-isonicotinic acid ethyl ester | 0.329 mmol, 125 mg | C(C)OC(C1=C(C=NC=C1)N1C(N(CC1)C1=CC(=CC=C1)C(F)(F)F)=O)=O | C18H16F3N3O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 3 mL | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
catalyst | titanium(IV)isopropoxide | 0.659 mmol, 187.3 mg | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-[4-(1-hydroxy-cyclopropyl)-pyridin-3-yl]-3-(3-trifluoromethyl-phenyl)-imidazolidin-2-one | 8 mg, 6% yield | OC1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | C18H16F3N3O2
